US08304557B2
To a solution of 3-(1-cyano-1-methylethyl)benzoic acid (2.66 g, 14.0 mmol) in tetrahydrofuran (28 mL) were added oxalyl chloride (1.63 mL, 19.1 mmol) and N,N-dimethylformamide (about 20 μL), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure to give 3-(1-cyano-1-methylethyl)benzoyl chloride as a pale-brown oil.

reactant | 3-(1-cyano-1-methylethyl)benzoic acid | 14.0 mmol, 2.66 g | C(#N)C(C)(C)C=1C=C(C(=O)O)C=CC1 | C11H11NO2
reactant | oxalyl chloride | 19.1 mmol, 1.63 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | about 20 μL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 28 mL | O1CCCC1 | C4H8O
product | 3-(1-cyano-1-methylethyl)benzoyl chloride | C(#N)C(C)(C)C=1C=C(C(=O)Cl)C=CC1 | C11H10ClNO
